data/mechanism_extracts/OrgChemFront/10.1039_d5qo00353a.json
{"doi": "10.1039_d5qo00353a", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical [3+2]/[4+2] radical cascade cyclization between N-methacryloylindoles and α-allyl-substituted methylenes to form indole-fused polycyclics using a Cp2Fe/DMAP mediator system.", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anode oxidizes a coordinated Cp2Fe(II)-DMAP complex to Fe(III), which then performs single-electron oxidation of the α-allyl methylene carbanion (generated by HFIP-mediated deprotonation, with H2 evolved at the cathode) to a carbon-centered radical; later anodic/Fe(III) oxidation of a cyclohexadienyl radical to a cation enables rearomatization.", "key_intermediates": [{"name": "α-allyl methylene carbanion (2-1) from cathodic-driven HFIP deprotonation", "smiles": null, "role": "transient"}, {"name": "Cp2Fe(II)-DMAP coordinated mediator (Fe(II)Ln)", "smiles": null, "role": "resting_state"}, {"name": "Cp2Fe(III)-DMAP oxidized mediator (Fe(III)Ln)", "smiles": null, "role": "reactive"}, {"name": "α-carbon-centered radical 2-2 of allyl methylene", "smiles": null, "role": "reactive"}, {"name": "Adduct radical 3-1 after first radical addition to N-methacryloylindole alkene", "smiles": null, "role": "transient"}, {"name": "Bicyclic carbon radical 3-2 after 5-exo-trig cyclization", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl (indolyl) radical 3-3 after 6-exo-trig cyclization onto indole C2", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl carbocation 3-4 after SET oxidation", "smiles": null, "role": "transient"}, {"name": "Indole-fused polycyclic product 3", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces HFIP to release H2 and generate an HFIP anion that deprotonates the α-allyl methylene to a carbanion (2-1); concurrently the anode oxidizes the Cp2Fe(II)-DMAP complex to Fe(III), which SET-oxidizes 2-1 to a C-radical (2-2). This radical adds to the methacryloyl alkene, undergoes sequential 5-exo-trig and 6-exo-trig cyclizations onto the indole, and the resulting cyclohexadienyl radical is oxidized (by Fe(III) or anode) to a cation that loses H+ to rearomatize and yield the polycycle.", "rate_determining_step": "Not the C-H bond cleavage of substrates 1 or 2 (KIE ≈ 0.78 and 1.18 indicate non-RDS C-H steps); RDS not explicitly assigned but consistent with radical addition/cyclization or mediator turnover.", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "No product formed, reaction suppressed (Scheme 5c-1)."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "No desired product; BHT-radical adduct 31 isolated in 65%, supporting a C-radical intermediate."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Product yield dropped to 17%; DPE-trapped adduct 32 isolated in 53%, confirming radical intermediacy."}, {"name": "[D]2-HFIP", "smiles": "OC(C(F)(F)F)C(F)(F)F", "purpose": "H/D_labeling", "observation": "60% deuterium incorporation at α-position of 2 ([D]-2), indicating rapid reversible C-H cleavage of the α-allyl methylene."}, {"name": "[D/H]-2 (α-deuterated methylene)", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 0.78 (inverse KIE), C-H cleavage of 2 is not rate-determining."}, {"name": "[D/H]-1 (deuterated N-methacryloylindole)", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.18, small/negligible KIE — C-H cleavage of 1 not rate-determining."}, {"name": "Cyclic voltammetry of Cp2Fe + DMAP mixture", "smiles": null, "purpose": "redox_probe", "observation": "New oxidation peak at ~0.7 V (between Cp2Fe and DMAP alone) indicates a coordinated Fe(II)-DMAP species is formed and is the species oxidized at the anode."}], "evidence_types_used": ["KIE", "H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Control experiments establish Cp2Fe as the essential mediator (Cu/Mn/Ni salts inactive) and DMAP as critical ligand; replacing DMAP with pyridine or N,N-dimethylaniline severely lowers yield. Reaction tolerant of air and water. Electron-poor indoles (CF3, NO2) unreactive, consistent with the cation/radical addition onto the indole π-system requiring sufficient nucleophilicity. The α-allyl methylene must be disubstituted at the γ-alkene (monosubstituted variants M1-M3 failed), and aryl esters (M4) failed, attributed to instability/steric hindrance of the alkyl radical intermediate."}
